US05081237
To a solution of allyl (5R,6S)-3-[(E)-2-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl}-1-methylethenyl]-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (2.82 g) in a mixture of tetrahydrofuran (28 ml) and ethanol (14 ml) were added successively triphenylphosphine (0.51 g), 5,5-dimethyl-1,3-cyclohexanedione (dimedone) (1.79 g), and tetrakis(triphenylphosphine)palladium (0) (220 mg). Stirring at ambient temperature for 1 hour gave a precipitate, which was collected by filtration, washed with tetrahydrofuran (40 ml) and dissolved in water (150 ml). The solution was washed with ethyl acetate (50 ml×2), concentrated in vacuo and lyophilized to give (5R,6S)-6-[(1R)-1-hydroxyethyl]-7-oxo-3- [(E)-2-{(2S)-pyrrolidin-2-yl}-1-methylethenyl]-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (1.52 g).

reactant | allyl (5R,6S)-3-[(E)-2-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl}-1-methylethenyl]-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 2.82 g | C(C=C)OC(=O)N1[C@@H](CCC1)/C=C(\C)/C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)OCC=C | C23H30N2O6
reactant | triphenylphosphine | 0.51 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5,5-dimethyl-1,3-cyclohexanedione | 1.79 g | CC1(CC(CC(C1)=O)=O)C | C8H12O2
solvent | tetrahydrofuran | 28 ml | O1CCCC1 | C4H8O
solvent | ethanol | 14 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 220 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (5R,6S)-6-[(1R)-1-hydroxyethyl]-7-oxo-3- [(E)-2-{(2S)-pyrrolidin-2-yl}-1-methylethenyl]-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 1.52 g | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)O)\C(=C\[C@H]1NCCC1)\C | C16H22N2O4
